US05185349
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-5-heptyltetrahydro-2-oxo-3-furancarboxamide
The title compound, mp 95°-98° C., was prepared from undecanoic γ-lactone (5.0 g, 0.027 mol), 2,6-diisopropylphenyl isocyanate (5.50 g, 0.027 mol) and lithium diisopropylamide (0.027 mol) using the procedure described in Example 1.

reactant | undecanoic γ-lactone | 0.027 mol, 5.0 g | CCCCCCCC1CCC(=O)O1 | C11H20O2
reactant | 2,6-diisopropylphenyl isocyanate | 0.027 mol, 5.50 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.027 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-5-heptyltetrahydro-2-oxo-3-furancarboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(OC(C1)CCCCCCC)=O | C24H37NO3
